US05849958
Preparation of 1-[1-(p-Chlorophenyl)-2-fluoro-4-(4-fluoro-3-phenoxyphenyl)-2-butenyl]cyclopropane. (R,S)-(Z)-
A solution of 1-(p-chlorophenyl)-1-cyclopropyl-2-fluoro-4-(4-fluoro-3-phenoxyphenyl)-1,3-butadiene (26 g, 0.064 mol) in a methanol/tetrahydrofuran solution (15:1) is treated with magnesium turnings (7.72 g, 0.317 mol), stirred at room temperature for 4 hours, quenched with hydrochloric acid, and extracted with ethyl acetate. The organic extracts are combined, washed sequentially with water, 2N hydrochloric acid and water, dried over anhydrous sodium sulfate, and concentrated in vacuo to obtain a residue. Flash column chromatography of the residue using silica gel and an ethyl acetate/hexanes solution (5:95) gives the title product as an oil (21.4 g, 82%) which is identified by NMR spectral analyses.

reactant | 1-(p-chlorophenyl)-1-cyclopropyl-2-fluoro-4-(4-fluoro-3-phenoxyphenyl)-1,3-butadiene | 0.064 mol, 26 g | ClC1=CC=C(C=C1)C(=C(C=CC1=CC(=C(C=C1)F)OC1=CC=CC=C1)F)C1CC1 | C25H19ClF2O
reactant | magnesium | 0.317 mol, 7.72 g | [Mg] | Mg
solvent | methanol tetrahydrofuran | CO.O1CCCC1
product | 1-[1-(p-Chlorophenyl)-2-fluoro-4-(4-fluoro-3-phenoxyphenyl)-2-butenyl]cyclopropane | 21.4 g, 82% | ClC1=CC=C(C=C1)C(C(=CCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)F)C1CC1 | C25H21ClF2O
